US07572808B2
Preparation of 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
A solution of (3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)pyridin-2-yl)methyl acetate (220 mg, 0.397 mmol) and 1.0 M aqueous K2CO3 solution (3.1 mL, 3.1 mmol) in methanol (7 mL) was stirred at room temperature for 30 min, then concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluted with a gradient of ethyl acetate (50-100%) in hexanes to afford 156 mg (77%) of the title compound as a yellow foam. A portion of the product (110 mg) was further purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 50% to 100% B over 8 min (A=90% water, 10% methanol and B=90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 97 mg of the title compound as a light yellow powder. HPLC/MS: retention time=2.67 min, [M+H]+=512.0.

reactant | (3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)pyridin-2-yl)methyl acetate | 0.397 mmol, 220 mg | C(C)(=O)OCC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1=O)C(F)(F)F | C27H19ClF3N5O3
reactant | K2CO3 | 3.1 mmol, 1.0 M, 3.1 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 7 mL | CO | CH4O
product | 7-(4-chlorophenyl)-2-((2-(hydroxymethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 156 mg, 77% | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)CO)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
